US04260612
40.0 g. (0.127 mole) of 9-bromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester are dissolved in 80 ml. of dimethylsulfoxide and 26 ml. (0.285 mole) of aniline are added. The solution is allowed to stand at room temperature for 3-4 days. The mixture is then diluted with 100 ml. of water, shaken out with 3×50 ml. of benzene. The combined organic layers are dried with calcinated sodium sulfate and evaporated in vacuo. The residue is recrystallized from ethanol and thus 24.5 g. (59.3%) of 9-(phenyl-amino)-6-methyl-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic ethyl ester is obtained, melting point: 119°-120° C.

reactant | 9-bromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester | 0.127 mole | C(C)OC(=O)C1=CN=C2N(C1=O)C(CCC2Br)C | C12H15BrN2O3
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | aniline | 0.285 mole | NC1=CC=CC=C1 | C6H7N
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 9-(phenyl-amino)-6-methyl-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic ethyl ester | 59.3% | C(C)OC(=O)C1=CN=C2N(C1=O)C(CC=C2NC2=CC=CC=C2)C | C18H19N3O3
